US08669234B2
2-(3-Amino-2-oxo-piperidin-1-yl)-propionic acid ethyl ester 2-(3-Amino-2-oxo-piperidin-1-yl)-propionic acid ethyl ester was prepared using method 804 substituting 2-[3,3-bis(tert-butoxycarbonylamino)-2-oxo-piperidin-1-yl]-propionic acid ethyl ester for {1-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-ylmethyl]-2-oxo-piperidin-3-yl}-carbamic acid tert-butyl ester. C10H18N2O3 calculated 214.2 observed [M+1]+215.2; rt=1.21 min.

reactant | 2-[3,3-bis(tert-butoxycarbonylamino)-2-oxo-piperidin-1-yl]-propionic acid ethyl ester | C(C)OC(C(C)N1C(C(CCC1)(NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O)=O | C20H35N3O7
reactant | {1-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-ylmethyl]-2-oxo-piperidin-3-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1C(N(CCC1)CC=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O)=O | C40H50N8O6
product | 2-(3-Amino-2-oxo-piperidin-1-yl)-propionic acid ethyl ester 2-(3-Amino-2-oxo-piperidin-1-yl)-propionic acid ethyl ester | C(C)OC(C(C)N1C(C(CCC1)N)=O)=O.C(C)OC(C(C)N1C(C(CCC1)N)=O)=O | 2C10H18N2O3
